US07482341B2
4-Fluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.058 g) and 4-fluoro-benzenesulfonyl chloride (0.054 g) as a light yellow gum (0.08 g). MS (ESI−): 389.1 ([M−H]−)

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.058 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 4-fluoro-benzenesulfonyl chloride | 0.054 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 4-Fluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F | C19H16F2N2O3S
